US05093364
Sodium hydroxide (2 pellets; approx 0.15 g) was added to a mixture of phenol (1.08 g) and 7-fluoro-1H-3,1-benzoxazine-2,4-dione (2 g) followed by tetrahydrofuran (4 ml). The mixture was heated on a steam bath until gas evolution ceased. It was then cooled, diluted with ethyl acetate (100 ml), the liquid collected and washed with aqueous sodium carbonate, dried, treated with charcoal and evaporated. The crude product was recrystallised from diisopropyl ether/light petroleum to give phenyl 4-fluoroanthranilate, m.p. 69°-70°. (Compound 3).

reactant | Sodium hydroxide | approx 0.15 g | [OH-].[Na+]
reactant | phenol | 1.08 g | C1(=CC=CC=C1)O | C6H6O
reactant | 7-fluoro-1H-3,1-benzoxazine-2,4-dione | 2 g | FC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4FNO3
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | phenyl 4-fluoroanthranilate | FC=1C=C(C(C(=O)OC2=CC=CC=C2)=CC1)N | C13H10FNO2
